US09024032B2
1-(Biphenyl-3-yl)-5-methoxy-2-phenylpyridin-4(1H)-one (20 mg, 0.056 mmol) was treated with BBr3 (0.5 mL of a 1 M solution in CH2Cl2) and stirred at room temperature. After 1 h, the reaction mixture was cooled to 0° C. and quenched with dropwise addition of MeOH (0.1 mL), before being concentrated under a stream of N2, diluted with MeOH (0.8 mL) and purified by reversed phase HPLC (2 cm×5 cm C18, acetonitrile-water gradient, 0.05% TFA added) to provide (99%) of 1-(biphenyl-3-yl)-5-hydroxy-2-phenylpyridin-4(1H)-one. 1H NMR (499 MHz, DMSO): δ 7.88 (s, 1 H); 7.64-7.60 (m, 2 H); 7.53 (d, J=7.7 Hz, 2 H); 7.46-7.40 (m, 3 H); 7.40-7.36 (m, 1 H); 7.30-7.26 (m, 6 H); 6.58 (s, 1 H). HRMS (ES) Calc (M+H)+ 340.1332 found 340.

reactant | 1-(Biphenyl-3-yl)-5-methoxy-2-phenylpyridin-4(1H)-one | 0.056 mmol, 20 mg | C1(=CC(=CC=C1)N1C(=CC(C(=C1)OC)=O)C1=CC=CC=C1)C1=CC=CC=C1 | C24H19NO2
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(biphenyl-3-yl)-5-hydroxy-2-phenylpyridin-4(1H)-one | 99% | C1(=CC(=CC=C1)N1C(=CC(C(=C1)O)=O)C1=CC=CC=C1)C1=CC=CC=C1 | C23H17NO2
